US08372842B2
LiOH—H2O (0.09 g, 2.1 mmol) was added to a solution of methyl 3-(tert-butoxycarbonylamino)-2-(4-chlorobenzyl)propanoate (0.64 g, 1.9 mmol) in 2:1 THF:H2O (20 mL). The reaction was then stirred for 3 hours at room temperature and then diluted with H2O (50 mL) and washed with ether (50 mL). The aqueous layer was next acidified with solid KHSO4, saturated with solid NaCl, and extracted with DCM. The combined organic extracts were dried (Na2SO4), filtered, concentrated, and dried in vacuo to give 3-(tert-butoxycarbonylamino)-2-(4-chlorobenzyl)propanoic acid (0.523 g, 85%) as a solid. MS ESI (−) m/z 312 detected.

reactant | LiOH—H2O | 2.1 mmol, 0.09 g | O[Li].O
reactant | methyl 3-(tert-butoxycarbonylamino)-2-(4-chlorobenzyl)propanoate | 1.9 mmol, 0.64 g | C(C)(C)(C)OC(=O)NCC(C(=O)OC)CC1=CC=C(C=C1)Cl | C16H22ClNO4
reactant | THF | C1CCOC1 | C4H8O
solvent | H2O | 50 mL | O | H2O
solvent | H2O | 20 mL | O | H2O
product | 3-(tert-butoxycarbonylamino)-2-(4-chlorobenzyl)propanoic acid | 0.523 g, 85% | C(C)(C)(C)OC(=O)NCC(C(=O)O)CC1=CC=C(C=C1)Cl | C15H20ClNO4
